US06900215B2
3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine was coupled with 4-chloro-2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile by the method of Example 65 to give 4-chloro-2′-fluoro-5′-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile as an off-white solid: δH (360 MHz, CDCl3) 7.29 (1H, d, J 7), 7.43-7.48 (1H, t, J 9), 7.54-7.71 (4H, m), 7.83 (1H, d, J 2), 8.10 (1H, s), 9.02 (1H, d, J 7).

reactant | 3-Bromo-7-trifluoromethylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(F)(F)F | C7H3BrF3N3
reactant | 4-chloro-2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | ClC=1C=C(C(=CC1)C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)C#N | C19H18BClFNO2
product | 4-chloro-2′-fluoro-5′-(7-trifluoromethylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile | ClC=1C=C(C(=CC1)C1=C(C=CC(=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F)F)C#N | C20H9ClF4N4
